US06743794B2
trans-3-(2-{[3-(2-Chloro-6-fluorophenyl)-5-methylisoxazole-4-carbonyl]amino}cyclohexyl)propionic Acid
A solution of methyl 3-(2-{[3-(2-chloro-6-fluorophenyl)-5-methylisoxazol-4-yl]carbonylamino}cyclohexyl)propanoate (0.127 g, 0.3 mmol) in THF (5 mL) was treated with a 0.5 M sol'n of LiOH in water (3 mL). The sol'n was stirred at r.t. for 5 hr. The reaction was diluted with water (3 mL) and washed with EtOAc (2×5 mL). The pH of the aqueous was adjusted to ˜3 with 0.1 M HCl and extracted with EtOAc (4×5 mL). The organic extractions were then washed with brine (2×5 mL), dried over sodium sulfate and the solvent removed to afford 0.095 g (80%) as a white solid. MS (ES+) m/z 409.0 (M+H)+, (ES−) m/z 407.0 (M−H)−.

reactant | methyl 3-(2-{[3-(2-chloro-6-fluorophenyl)-5-methylisoxazol-4-yl]carbonylamino}cyclohexyl)propanoate | 0.3 mmol, 0.127 g | ClC1=C(C(=CC=C1)F)C1=NOC(=C1C(=O)NC1C(CCCC1)CCC(=O)OC)C | C21H24ClFN2O4
reactant | LiOH | [Li+].[OH-]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | water | 3 mL | O | H2O
solvent | water | 3 mL | O | H2O
product | trans-3-(2-{[3-(2-Chloro-6-fluorophenyl)-5-methylisoxazole-4-carbonyl]amino}cyclohexyl)propionic Acid | ClC1=C(C(=CC=C1)F)C1=NOC(=C1C(=O)N[C@H]1[C@@H](CCCC1)CCC(=O)O)C | C20H22ClFN2O4
